US05731315
D. 4-Bromomethyl-thiophene-2-carbonitrile
To a solution of 4-hydroxymethyl-thiophene-2-carbonitrile (10 g, 72 mmol), in 360 mL of THF is added triphenyl phosphine (18.3 g, 76 mmol) and carbon tetrabromide (25 g, 76 mmol). After 3 h, the solution is filtered and concentrated. The crude product is purified by column chromatography eluting with gradient of 5% EtOAc/hexanes to 10% EtOAc/hexanes to afford the title compound (14 g, 69 mmol) as a white solid.

reactant | 4-hydroxymethyl-thiophene-2-carbonitrile | 72 mmol, 10 g | OCC=1C=C(SC1)C#N | C6H5NOS
reactant | triphenyl phosphine | 76 mmol, 18.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 76 mmol, 25 g | C(Br)(Br)(Br)Br | CBr4
solvent | THF | 360 mL | C1CCOC1 | C4H8O
product | 4-Bromomethyl-thiophene-2-carbonitrile | 69 mmol, 14 g | BrCC=1C=C(SC1)C#N | C6H4BrNS
